US05866592
Anisole (0.5 ml) and trifluoroacetic acid (10 ml) were added to N-t-butyloxycarbonyl-α-ethyl-β-alanine-t-butyl ester (0.98 g) and the mixture was stirred at room temperature for 12 hours. After trifluoroacetic acid was distilled off, the residue was dissolved in water (5 ml) and neutralized with a 10% aqueous solution of sodium carbonate. The product was protected with Fmoc by the same procedure as in Example 2-(3). A crystal of N-Fmoc-α-ethyl-β-alanine (437 mg, 36%) was obtained upon recrystallization from hexane.

reactant | Anisole | 0.5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | N-t-butyloxycarbonyl-α-ethyl-β-alanine-t-butyl ester | 0.98 g | C(C)(C)(C)OC(C(CNC(=O)OC(C)(C)C)CC)=O | C14H27NO4
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-Fmoc-α-ethyl-β-alanine | 437 mg, 36% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC(C(=O)O)CC | C20H21NO4
